US07291635B2
HOBt (40.5 mg, 0.264 mmol), (S)-2-acetylamino-3-phenyl-propionic acid (54.7 mg, 0.264 mmol) and EDCl (50.6 mg, 0.264 mmol) are added to a solution of the title G compound, (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide (129 mg, 0.264 mmol) in CH2Cl2 (5 mL) and stirred at RT for 2 h. The reaction is concentrated and the product is taken up in EtOAc, washed with 1N aqueous HCl, saturated aqueous NaHCO3 and brine, dried over magnesium sulfate, filtered and concentrated to yield (S)-2-acetylamino-N-((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide as a white solid: [M+1]+=678.

reactant | HOBt | 0.264 mmol, 40.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-acetylamino-3-phenyl-propionic acid | 0.264 mmol, 54.7 mg | C(C)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C11H13NO3
reactant | EDCl | 0.264 mmol, 50.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide | 0.264 mmol, 129 mg | N[C@H](C(=O)NCCCCC)CC1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H32N4O5S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-acetylamino-N-((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide | C(C)(=O)N[C@H](C(=O)N[C@@H](CC1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)CC1=CC=CC=C1 | C35H43N5O7S
